US04963553
4,5-Dihydro-4-[(4-methyl-1-piperazinyl)acetyl]-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]-pyrimidine-3-carbonitrile. dihydrochloride
4,5-Dihydro-4-[(4-methyl-1-piperazinyl)acetyl]-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine-3-carbonitrile was dissolved in hot ethyl acetate and treated with dilute ethanolic hydrochloric acid. Cooling produced a solid which was collected, washed with ether and dried. This solid was heated to boiling in 60 ml of acetonitrile, filtered and the filtrate diluted with 60 ml of ether and refrigerated. The solid was collected, washed with ether and dried, giving 600 mg of the desired product, mp 198° C. (eff.).

reactant | 4,5-Dihydro-4-[(4-methyl-1-piperazinyl)acetyl]-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine-3-carbonitrile | CN1CCN(CC1)CC(=O)N1C=2N(C(=CC1)C1=CC(=CC=C1)C(F)(F)F)N=CC2C#N | C21H21F3N6O
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4,5-Dihydro-4-[(4-methyl-1-piperazinyl)acetyl]-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]-pyrimidine-3-carbonitrile. dihydrochloride | 600 mg | Cl.Cl.CN1CCN(CC1)CC(=O)N1C=2N(C(=CC1)C1=CC(=CC=C1)C(F)(F)F)N=CC2C#N | InChI=1S/C21H21F3N6O.2ClH/c1-27-7-9-28(10-8-27)14-19(31)29-6-5-18(30-20(29)16(12-25)13-26-30)15-3-2-4-17(11-15)21(22,23)24;;/h2-5,11,13H,6-10,14H2,1H3;2*1H
